### PR TITLE
WIP : Lemma 1.9

### PR DESCRIPTION
**Pull request by ADedecker**
A proof of https://leanprover-community.github.io/sphere-eversion/blueprint/chap-loops.html#lem:loop_of_hull . The proof is sorry-free but I tag it as WIP because I need to do a bit of cleaning, and I have to commit the content of `to_mathlib.lean` to mathlib

### CODE REVIEW

**Comment by ADedecker** [comment]
Oh btw, I didn't end up using the `loop.of_path` I added in `loops/basic`, will it be useful to someone or should I remove it ?

File: src/loops/surrounding.lean [hunk 1]
```diff
@@ -17,15 +20,115 @@ local notation `I` := Icc (0 : ℝ) 1
...
+set_option profiler true
 lemma surrounding_loop_of_convex_hull {f b : F} {O : set F} (O_op : is_open O) (O_conn : is_connected O) 
   (hsf : f ∈ convex_hull O) (hb : b ∈ O) : 
   ∃ γ : ℝ → loop F, continuous_on ↿γ (set.prod I univ) ∧ 
-                    ∀ t, γ t 0 = b ∧
-                    ∀ s, γ 0 s = b ∧
-                    ∀ (t ∈ I) s, γ t s ∈ O ∧
+                    (∀ t, γ t 0 = b) ∧
+                    (∀ s, γ 0 s = b) ∧
+                    (∀ (t ∈ I) s, γ t s ∈ O) ∧
```
Comment (PatrickMassot) [inline src/loops/surrounding.lean:43]: I wonder how many more years I'll make this mistake in statements again and again. Fortunately it usually comes to light pretty quickly when trying to prove things.

File: src/loops/surrounding.lean [hunk 2]
```diff
@@ -17,15 +20,115 @@ local notation `I` := Icc (0 : ℝ) 1
...
                     (γ 1).surrounds f :=
-sorry
+begin
```
Comment (PatrickMassot) [inline src/loops/surrounding.lean:45]: The length of this proof says the API is not there yet. We probably need many more preparatory lemmas.

File: src/to_mathlib.lean [hunk 3]
```diff
@@ -0,0 +1,135 @@
+import data.real.pi
+
+open set function finite_dimensional real
+open_locale topological_space
+
+lemma real.exists_cos_eq : set.Icc (-1:ℝ) 1 ⊆ real.cos '' set.Icc (0) (real.pi) :=
```
Comment (PatrickMassot) [inline src/to_mathlib.lean:6]: I know these `Icc (-1:ℝ) 1` are pretty common, but I think `(Icc -1 1 : set ℝ)` actually look nicer.

File: src/to_mathlib.lean [hunk 4]
```diff
@@ -0,0 +1,135 @@
...
+        exact γ.target } },
+    { rw range_eq,
+      apply union_subset hγ₀.2,
+      rw range_subset_iff,
+      exact hγ₁ } }
+end
+
+lemma is_path_connected.exists_path_through_family
+  {X : Type*} [topological_space X] {n : ℕ} {s : set X} (h : is_path_connected s) 
+  (p : fin n.succ → X) (hp : ∀ i, p i ∈ s) : ∃ γ : path (p 0) (p n), (∀ i, p i ∈ range γ) ∧ (range γ ⊆ s) :=
```
Comment (PatrickMassot) [inline src/to_mathlib.lean:116]: please use `n+1` instead of `n.succ` which is an implementation detail of the construction of natural numbers

File: src/to_mathlib.lean [hunk 5]
```diff
@@ -0,0 +1,135 @@
...
+        rw this,
+        use 1,
+        exact γ.target } },
+    { rw range_eq,
+      apply union_subset hγ₀.2,
+      rw range_subset_iff,
+      exact hγ₁ } }
+end
+
+lemma is_path_connected.exists_path_through_family
```
Comment (PatrickMassot) [inline src/to_mathlib.lean:114]: I knew some form of this lemma would be needed of course. I wonder what would be the most convenient statement though. `set.range` is pretty annoying because you're always packing and unpacking existential quantifiers. You could write (using ``notation `I` := (Icc 0 1 : set ℝ)``)
```
∃ (γ : path (p 0) (p n)) (t : fin (n + 1) → I), (∀ t, γ t ∈ s) ∧ ∀ i,  γ (t i) = p i
```
But really the decision should be based on what is most convenient for later use (you can even have both version if one is convenient to prove and the other is convenient to use, since converting back and forth should be easy).

**Review by PatrickMassot — COMMENTED** [review]
Thanks a lot! It looks very promising!

**Comment by PatrickMassot** [comment]
> Oh btw, I didn't end up using the `loop.of_path` I added in `loops/basic`, will it be useful to someone or should I remove it ?

Let's keep it for now. It's very natural to have that. Maybe add a comment saying it's not used yet.

**Comment by PatrickMassot** [comment]
I realized something during the night. This story with cosine goes back to a time when I thought I wanted to use smooth loops everywhere. But then I switched to using continuous loops almost all the way through and smoothing them at the very end. So the cosine thing ends up looking silly (although any elementary lemma about cosine that you can think of can go to mathlib) and you can use your `loop.of_path`.

**Comment by ADedecker** [comment]
> I realized something during the night. This story with cosine goes back to a time when I thought I wanted to use smooth loops everywhere. But then I switched to using continuous loops almost all the way through and smoothing them at the very end. So the cosine thing ends up looking silly (although any elementary lemma about cosine that you can think of can go to mathlib) and you can use your `loop.of_path`.

Actually `loop.of_path` isn't enough here anyway : it would allow me to build the final loop, but not the continuous family (at least not easily). I could have used any continuous, 1-periodic function with range [0,1] and which maps all integers to 0, but the cosine-based one seemed the more natural to prove continuity, since it doesn't involve any `if`.

File: src/to_mathlib.lean (hunk 5 above)
Comment (ADedecker) [reply src/to_mathlib.lean:118]: I have tried to refactor my proof to use `range` pretty much nowhere, but this ended up quite unreadable in my opinion and slower to compile. But maybe I just didn't do it the right way. I left my attempt commented in my last commit if you want to see how it looks.

File: src/loops/surrounding.lean (hunk 2 above)
Comment (ADedecker) [reply src/loops/surrounding.lean:43]: Although it's clearly too long, I'm not sure about which parts I should factor out. Most intermediary results seem too specific to be a separate lemma

Comment (PatrickMassot) [reply src/loops/surrounding.lean:43]: I think you need more `def` both `Prop` valued and data. You should probably define 'round_trip` (either as a propery of `loop` or a structure extending `loop`, then a function which takes a round trip loop and turn it into a family of loops interpolating between a constant loop and the given round trip. Then you can state lemmas about these constructions and you will have separated completely the round trip trick from building a path through a family of points.

Comment (ADedecker) [reply src/loops/surrounding.lean:43]: Would just defining `round_trip` as a specific loop built from a path (say `loop.of_path (γ.trans γ.symm)` for some `γ : path x y`) ? I don't really see the point of making it a general predicate/structure here, because I don't need to prove things about all round trip loops, but maybe I'm missing something

Comment (PatrickMassot) [reply src/loops/surrounding.lean:43]: Since this is an internal definition, it depends what you end up using in the proof. You need to try, keeping in mind the goal is to retract these loops to constant loops.

File: src/path_manip.lean [hunk 6]
```diff
@@ -0,0 +1,273 @@
...
+notation `I` := (Icc 0 1 : set ℝ)
+
+@[ext] protected lemma path.ext {X : Type*} [topological_space X] {x y : X} : ∀ {γ₁ γ₂ : path x y}, (γ₁ : I → X) = γ₂ → γ₁ = γ₂
+| ⟨x, h11, h12, h13⟩ ⟨.(x), h21, h22, h23⟩ rfl := rfl
+
+/-- Any function `φ : α → path F` can be seen as a function `α × I → F`. -/
+instance has_uncurry_path {X α : Type*} [topological_space X] {x y : α → X} : 
+has_uncurry (Π (a : α), path (x a) (y a)) (α × I) X := ⟨λ φ p, φ p.1 p.2⟩
+
+lemma path.extend_extends {X : Type*} [topological_space X] {a b : X}
```
Comment (PatrickMassot) [inline src/path_manip.lean:20]:
```suggestion
@[simp] lemma path.extend_extends {X : Type*} [topological_space X] {a b : X}
```

File: src/path_manip.lean [hunk 7]
```diff
@@ -0,0 +1,273 @@
...
+  (γ : path a b) {t : ℝ} (ht : t ∈ (Icc 0 1 : set ℝ)) : γ.extend t = γ ⟨t, ht⟩ :=
+I_extend_extends γ.to_fun ht
+
+lemma path.extend_extends' {X : Type*} [topological_space X] {a b : X}
```
Comment (PatrickMassot) [inline src/path_manip.lean:24]:
```suggestion
@[simp] lemma path.extend_extends' {X : Type*} [topological_space X] {a b : X}
```

File: src/path_manip.lean [hunk 8]
```diff
@@ -0,0 +1,273 @@
...
+  (γ : path a b) (t : (Icc 0 1 : set ℝ)) : γ.extend ↑t = γ t :=
+by {convert γ.extend_extends t.2, rw subtype.ext_iff_val}
+
+lemma path.extend_range {X : Type*} [topological_space X] {a b : X}
```
Comment (PatrickMassot) [inline src/path_manip.lean:28]:
```suggestion
@[simp] lemma path.extend_range {X : Type*} [topological_space X] {a b : X}
```

File: src/path_manip.lean [hunk 9]
```diff
@@ -0,0 +1,273 @@
...
+  (γ : path a b) : range γ.extend = range γ :=
+I_extend_range γ.to_fun 
+
+lemma path.refl_range {X : Type*} [topological_space X] {a : X} :
```
Comment (PatrickMassot) [inline src/path_manip.lean:32]:
```suggestion
@[simp] lemma path.refl_range {X : Type*} [topological_space X] {a : X} :
```

**Review by PatrickMassot — COMMENTED** [review]
I left a couple more comments. I think many lemmas about families of paths should be stated with more general parameter type (ie. not only families parametrized by real numbers).

File: src/path_manip.lean [hunk 10]
```diff
@@ -0,0 +1,273 @@
...
+  choose! t ht using h₁,
+  exact ⟨γ, t, h₂, ht⟩
+end
+
+lemma path.extend_le_zero {X : Type*} [topological_space X] {a b : X}
+  (γ : path a b) {t : ℝ} (ht : t ≤ 0) : γ.extend t = a :=
+begin
+  have := γ.source,
+  simpa [path.extend, I_extend, proj_I, ht]
+end
```
[the remark this answers is not in the document]
Comment (ADedecker) [reply src/path_manip.lean:161]: Unfortunately this doesn't seem to work here

**Comment by ADedecker** [comment]
Do you think all the content of my `path_manip.lean` should go to mathlib, or are there too specific parts ?

**Comment by PatrickMassot** [comment]
I think everything about `path` without `loop` can go to mathlib. The case of `loop` is more debatable.
